US05789595
1.11 g of N-benzyloxycarbonyl-4-tert-butoxycarbonylmethyloxy-2,6-dimethylpiperidine was dissolved in 5 ml of methylene chloride, and 2 ml of trifluoroacetic acid was added. The solution was stirred overnight at room temperature, and the resulting solution was concentrated under reduced pressure. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography. From the fractions eluted with chloroform-methanol (9:1 v/v) was obtained 0.61 g of N-benzyloxycarbonyl-4-carboxymethyloxy-2,6-dimethylpiperidine, which was an oily product with no color (yield: 65%).

reactant | N-benzyloxycarbonyl-4-tert-butoxycarbonylmethyloxy-2,6-dimethylpiperidine | 1.11 g | C(C1=CC=CC=C1)OC(=O)N1C(CC(CC1C)OCC(=O)OC(C)(C)C)C | C21H31NO5
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-benzyloxycarbonyl-4-carboxymethyloxy-2,6-dimethylpiperidine | 0.61 g, yield: 65% | C(C1=CC=CC=C1)OC(=O)N1C(CC(CC1C)OCC(=O)O)C | C17H23NO5
